US08314087B2
2-(2-Fluoro-5-(4-methylthiophen-2-yl)pyridin-3-yl)ethanol.
To a microwave tube was added 2-(2-fluoro-5-iodopyridin-3-yl)ethanol (0.09 g, 0.3 mmol), 4-methylthiophen-2-ylboronic acid (0.2 g, 1 mmol), palladium fibrecatalyst (0.010 mg, 10% wt), potassium carbonate (2 M, 0.3 mL, 0.7 mmol), and dioxane (3 mL). The vial was sealed and placed into CEM microwave for 20 min. at 150° C., with 80 Watts of power via Powermax. The reaction mixture was partitioned between water/CH2Cl2. The aqueous layer was extracted with CH2Cl2 and the combined organic layers were dried over MgSO4 and concentrated. The crude product was purified using SiO2 chromatography with hexane:acetone (90%:10%) to afford the product as colorless liquid (65 mg). MS (ESI pos. ion) m/z (MH+): 238.3. Calc'd exact mass for C12H12FNOS: 237.1. 1H NMR (300 MHz, Chloroform-d) δ ppm 1.54-1.64 (m, 1 H) 2.30 (s, 3 H) 2.94 (t, J=6.36 Hz, 2 H) 3.95 (q, J=6.24 Hz, 2 H) 6.92 (s, 1 H) 7.11 (s, 1 H) 7.84 (d, J=9.06 Hz, 1 H) 8.27 (s, 1 H).

reactant | 2-(2-fluoro-5-iodopyridin-3-yl)ethanol | 0.3 mmol, 0.09 g | FC1=NC=C(C=C1CCO)I | C7H7FINO
reactant | 4-methylthiophen-2-ylboronic acid | 1 mmol, 0.2 g | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | potassium carbonate | 0.7 mmol, 2 M, 0.3 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium | [Pd] | Pd
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-(2-Fluoro-5-(4-methylthiophen-2-yl)pyridin-3-yl)ethanol | 65 mg | FC1=NC=C(C=C1CCO)C=1SC=C(C1)C | C12H12FNOS
